US06835846B2
2-Undecanone (methyl nonyl ketone) (1′) (73.9 g, 434 mmols) and methyl (diethylphosphono)acetate (99.4 g, 433 mmols) were dissolved in dry benzene (300 ml). The solution was stirred at room temperature, and a 28% sodium methoxide solution (83.7 g) in methanol was slowly added. Stirring was continued overnight at room temperature. The reaction mixture was poured into ice water, and extracted with diethyl ether. The organic layer was washed (water and a saturated aqueous solution of sodium chloride), and dried (sodium sulfate), followed by removing the solvent in a vacuum to obtain methyl 3-methyl-2-dodecenoate (2′) as a geometric isomer mixture.

reactant | 2-Undecanone | CC(CCCCCCCCC)=O | C11H22O
reactant | methyl (diethylphosphono)acetate | 433 mmols, 99.4 g | C(C)OP(=O)(OCC)CC(=O)OC | C7H15O5P
reactant | sodium methoxide | 83.7 g | C[O-].[Na+]
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | CO | CH4O
product | methyl 3-methyl-2-dodecenoate | CC(=CC(=O)OC)CCCCCCCCC | C14H26O2
